US05491144
b) 4,5-Bis(anilino)phthalic acid
A steady stream of argon is passed through a suspension of 26.35 g (70.0 mmol) of 4,5-bis(anilino)phthalic acid dimethylester in 230 ml of methanol, and a solution of 11.78 g (280 mmol, 2 eq) of lithium hydroxide monohydrate in 116 ml of water is added. The reaction mixture is heated toreflux for 2.5 h, cooled to RT and diluted with 400 ml water. Methanol is removed by evaporation, the resulting solution is cooled to 0°, and70 ml 4N hydrochloric acid are added. After 15 min. at 0°, the gray crystals are filtered off, washed with water and resuspended twice in 200 ml toluene with removal of the toluene by distillation to yield the title compound in the form of gray crystals, FAB-MS: 349 [M+ +H].

reactant | 4,5-bis(anilino)phthalic acid dimethylester | 70.0 mmol, 26.35 g | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C22H20N2O4
reactant | lithium hydroxide monohydrate | 280 mmol, 11.78 g, 2 eq | O.[OH-].[Li+]
solvent | methanol | 230 ml | CO | CH4O
solvent | water | 116 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 4,5-Bis(anilino)phthalic acid | N(C1=CC=CC=C1)C=1C=C(C(C(=O)O)=CC1NC1=CC=CC=C1)C(=O)O | C20H16N2O4
